US07968581B2
Step 6: 4-[2,5-Dioxo-3-methyl-4-(3-methylphenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
To a solution of 4-[2,5-dioxo-4-(3-methylphenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile (829 mg) in DMF (1.5 mL) is added potassium carbonate (320 mg) and methyliodide (480 μL). The mixture is stirred 3 hours at rt, evaporated, washed with brine, extracted with ethyl acetate, dried over MgSO4 and concentrated to give the desired compound.

reactant | 4-[2,5-dioxo-4-(3-methylphenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 829 mg | O=C1N(C(C(N1)(COCC=C)C1=CC(=CC=C1)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C22H18F3N3O3
reactant | potassium carbonate | 320 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyliodide | 480 μL | CI | CH3I
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-[2,5-Dioxo-3-methyl-4-(3-methylphenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | O=C1N(C(C(N1C)(COCC=C)C1=CC(=CC=C1)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C23H20F3N3O3
